US07776882B2
Step F: 2-(2-nitro-5-phenoxy-benzyl)-hex-5-enenitrile
To a round bottom flask equipped with a stir bar, condenser, and a nitrogen inlet 2-cyano-2-(2-nitro-5-phenoxy-benzyl)-hex-5-enoic acid (4.0 g, 10.92 mmol) was added and dissolved in dimethylacetamide (10 mL). The solution was heated to 150° C. for 3 hours. The reaction mixture was allowed to room temperature, then the solvent was removed under reduced pressure. The resulting crude product was dissolved in ethyl acetate and washed 3 times with 1N HCl followed by one wash with saturated brine solution. The organic layer was separated and dried with anhydrous sodium sulfate and the solvent was removed to yield crude material. The crude material was subjected to flash chromatography (mobile phase 9:1 heptane:ethyl acetate) to yield a yellow oil.

reactant | 2-cyano-2-(2-nitro-5-phenoxy-benzyl)-hex-5-enoic acid | 10.92 mmol, 4.0 g | C(#N)C(C(=O)O)(CCC=C)CC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C20H18N2O5
reactant | heptane | CCCCCCC | C7H16
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylacetamide | 10 mL | CC(=O)N(C)C | C4H9NO
product | 2-(2-nitro-5-phenoxy-benzyl)-hex-5-enenitrile | [N+](=O)([O-])C1=C(CC(C#N)CCC=C)C=C(C=C1)OC1=CC=CC=C1 | C19H18N2O3
